US04413006
A mixture of 23.6 g of 1-[3-(4-acetamido-2-methoxyphenoxy)-n-propyl]-4-phenyl-piperazine, 200 ml of 10% hydrochloric acid and 60 ml of conc. hydrochloric acid is refluxed for 2.5 hours. The mixture is adjusted to pH 11 by adding an aqueous 10% sodium hydroxide solution thereto. After cooling, the crystalline precipitates are collected by filtration, and then recrystallized from benzene. 14 g of 1-[3-(4-amino-2-methoxyphenoxy)-n-propyl]-4-phenyl-piperazine are thereby obtained.

reactant | 1-[3-(4-acetamido-2-methoxyphenoxy)-n-propyl]-4-phenyl-piperazine | 23.6 g | C(C)(=O)NC1=CC(=C(OCCCN2CCN(CC2)C2=CC=CC=C2)C=C1)OC | C22H29N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 60 ml | Cl | ClH
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 1-[3-(4-amino-2-methoxyphenoxy)-n-propyl]-4-phenyl-piperazine | 14 g, yield: 89.5% | NC1=CC(=C(OCCCN2CCN(CC2)C2=CC=CC=C2)C=C1)OC | C20H27N3O2
